US04074062
A 148.2g (2.0 mols) amount of n-butanol, 400.5g (4.0 mols) of methylmethacrylate, 0.5g of hydroquinonemonomethyl ether and 2.45g (0.025 mol) of concentrated sulfuric acid were added to a flask to conduct a reaction in the same manner described in Example 1. The reaction was carried out for 6 hours. The reaction results obtained were an 89.9% conversion of n-butanol and an 88.2% yield of n-butyl methacrylate. However, it was found by gas chromatography that a high boiling point by-product was present and 0.004 mol of methacrylic acid (2740 ppm. on n-butyl methacrylate) was produced as a by-product.

reactant | methylmethacrylate | COC(C(=C)C)=O | C5H8O2
reactant | ether | 0.5g | CCOCC | C4H10O
reactant | sulfuric acid | 0.025 mol, 2.45g | S(O)(O)(=O)=O | H2O4S
reactant | n-butanol | C(CCC)O | C4H10O
product | n-butyl methacrylate | 88.2% yield | C(C(=C)C)(=O)OCCCC | C8H14O2
